US07135486B1
N-{4-[2-Amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide
19 g (0.09 mol) of N-[4-(2,2-dicyanovinyl)phenyl]acetamide, 5.95 g (0.09 mol) of malononitrile and 9.91 g (0.09 mol) of thiophenol are initially charged in 120 ml of ethanol, and 0.4 ml of triethylamine are added. The mixture is stirred at reflux for 2 h, during which the product crystallizes. After cooling, the product is filtered off with suction and dried under reduced pressure.

reactant | N-[4-(2,2-dicyanovinyl)phenyl]acetamide | 0.09 mol, 19 g | C(#N)C(=CC1=CC=C(C=C1)NC(C)=O)C#N | C12H9N3O
reactant | malononitrile | 0.09 mol, 5.95 g | C(CC#N)#N | C3H2N2
reactant | thiophenol | 0.09 mol, 9.91 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-{4-[2-Amino-3,5-dicyano-6-(phenylsulfanyl)-4-pyridinyl]phenyl}acetamide | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)NC(C)=O)C#N)SC1=CC=CC=C1 | C21H15N5OS
